US03954771
Preparation of N-formyl-N-methyl-2-(3,4-dimethoxy-phenyl)-acetamide. (new compound)
Taking into account that the homoveratric acid chloride is obtained with a yield of 83%, the overall yield of 6,7-dimethoxy-N-methyl-2H-3-isoquinolone sulfate, in 3 steps, is 32%, which constitutes a considerable improvement as compared to the process of N. J. Mc Corkindale and A. W. Mc Culloch (4 steps and an overall yield of 13.3%).

reactant | homoveratric acid chloride | C(CC1=CC(OC)=C(OC)C=C1)(=O)Cl | C10H11ClO3
reactant | 6,7-dimethoxy-N-methyl-2H-3-isoquinolone sulfate | S(=O)(=O)(O)O.COC1=CC2=CC(N(C=C2C=C1OC)C)=O
product | N-formyl-N-methyl-2-(3,4-dimethoxy-phenyl)-acetamide | C(=O)N(C(CC1=CC(=C(C=C1)OC)OC)=O)C | C12H15NO4
